US05760032
tert-Butyl 3-(N-benzyloxycarbonylamino)benzoate (2.18 g) and ammonium formate (2.1 g) were dissolved in methanol (30 ml). Catalyst (1 g) of 10% palladium/carbon was added, and the mixture was stirred at 60° C. for 2 hours. The reaction mixture was filtered through Celite to remove catalyst and the filtrate was concentrated. The residue was partitioned between chloroform and water. The organic layer was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to give tert-butyl 3-aminobenzoate. This compound was dissolved in tetrahydrofuran (30 ml). N,N'-Carbonyldiimidazole (1.05 g) was added, and the mixture was stirred at room temperature for 3 hours. Triethylamine (1.82 ml) and 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (4.82 g) were added to the reaction mixture, and the mixture was further stirred at room temperature for 3 hours. The reaction mixture was concentrated. The residue was partitioned between ethyl acetate and water. The organic layer was washed with a 5% aqueous citric acid solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated. The residue was purified by silica gel column chromatography using a mixed solvent of ethyl acetate and methanol (10:1) as an eluent, and crystallized from isopropyl ether to give 0.95 g of tert-butyl 3-(3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)ureido)benzoate.

reactant | tert-Butyl 3-(N-benzyloxycarbonylamino)benzoate | 2.18 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C19H21NO4
reactant | ammonium formate | 2.1 g | C(=O)[O-].[NH4+]
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium/carbon | 1 g | [Pd] | Pd
product | tert-butyl 3-aminobenzoate | NC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C11H15NO2
